US07772256B2
5-Methoxybenzofuran boronic acid
n-Butyllithium 2.5M in hexanes (5.6 mL) was added slowly to a solution of 5-methoxybenzofuran (13.5 mmol) in dry THF (30 mL) at −78° C. After 1 h stirring at −78° C., triisopropylborate (27.0 mmol) was added dropwise and the mixture was stirred for another 20 min at −78° C. The dry ice bath was removed and HCl 2N (aq. 40 mL) was added and the mixture allowed to warm to r.t. and then poured in water (50 mL). The resulting aqueous solution was extracted with ether, the organic layer was washed with brine, dried over MgSO4, filtered and concentrated under vacuum to afford the title compound as a beige powder (2.40 g). 1H NMR δ ppm 8.49 (s, 2 H) 7.45 (d, 1 H) 7.38 (s, 1 H) 7.18 (d, 1 H) 6.93 (dd, 1 H) 3.78 (s, 3 H).

reactant | n-Butyllithium | 2.5M | C(CCC)[Li]
reactant | 5-methoxybenzofuran | 13.5 mmol | COC=1C=CC2=C(C=CO2)C1 | C9H8O2
reactant | triisopropylborate | 27.0 mmol | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 5-Methoxybenzofuran boronic acid | 2.40 g | COC=1C=CC2=C(C=C(O2)B(O)O)C1 | C9H9BO4
